US05523439
Subsequently, 11.8 g of bromine was added to a solution of 14.0 g of 4-(p-fluorophenyl)-1-silacyclohexane in 100 ml of dichloromethane to obtain 4-(p-fluorophenyl)-1-bromo-1-silacyclohexane. The reaction solution was concentrated and the resultant residue was dissolved in 50 ml of diethyl ether, followed by dropping in 100 ml of a THF solution of 1 mole/liter of n-heptylmagnesium bromide at room temperature. The reaction mixture was poured into 200 ml of 5% hydrochloric acid and extracted with ethyl acetate. The resultant ethyl acetate solution was washed with brine, dried and concentrated, followed by purification through silica gel chromatography to obtain 19.0 g (yield: 90%) of the intended product. The results of IR and NMR analyses are shown below.

reactant | bromine | 11.8 g | BrBr | Br2
reactant | 4-(p-fluorophenyl)-1-silacyclohexane | 14.0 g | FC1=CC=C(C=C1)C1CC[SiH2]CC1 | C11H15FSi
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(p-fluorophenyl)-1-bromo-1-silacyclohexane | FC1=CC=C(C=C1)C1CC[SiH](CC1)Br | C11H14BrFSi
